US07064116B2
1,1-Dibromo-2-[3α-(t-butyidiphenyisilyloxy)-5α-androstan-17β-yl]-ethylene
To a solution of tetrabromomethane (1.99 g, 6 mmol) in anhydrous methylene chloride (31 mL) was added at 0° C., triphenylphosphine (3.14 g, 6 mmol) and the resulting mixture is stirred for 10 min. Subsequently, a solution of 3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde (540 mg, 1 mmol) in methylene chloride (6 mL) was added and the mixture was stirred at 0° C. for an additional 10 min. The reaction mixture was diluted with ethyl acetate and the organic layer is washed with water, saturated aqueous NaCl solution and was dried with anhydrous Na2SO4. The solvent was evaporated in vacuo and the residue was purified with flash column chromatography using petroleum ether/ether 95/5 as eluent afforded the desired compound named.

reactant | tetrabromomethane | 6 mmol, 1.99 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6 mmol, 3.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde | 1 mmol, 540 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O | C36H50O2Si
solvent | methylene chloride | 31 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dibromo-2-[3α-(t-butyidiphenyisilyloxy)-5α-androstan-17β-yl]-ethylene | BrC(=C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)Br | C37H50Br2OSi
